US05104992
33.2 g (0.1 mol) of 2-(2'-hydroxy-3'-t-butyl-5'-methylphenyl)-5-chlorobenzotriazole-N-oxide, 0.125 g of palladium carbon, 300 ml of a solvent mixture comprising toluene, butanol and water (ratio by volume of 1:1:1) and 5 g 50% dimethylamine were charged into a 500-ml stainless autoclave equipped with an agitator. After the air in the autoclave had been replaced by hydrogen, the pressure of hydrogen was set to 10 kg/cm2. The temperature of the resultant mixture was increased to 50° C. under agitation, and agitation was continued until no more hydrogen gas was absorbed by the mixture. The pressure of hydrogen was always kept at 8 to 10 kg/cm2 during the reaction. After the reaction had been completed, the autoclave was cooled, and the catalyst was filtered off. The most part of solvent was distilled off, and the residual solid was washed with isopropyl alcohol and then dried to obtain 27.2 g of 2-(2'-hydroxy-3'-t-butyl- 5'-methylphenyl)-5-chlorobenzotriazole as a target substance (yield, 86.2%; melting point, 138° to 140° C.).

reactant | 2-(2'-hydroxy-3'-t-butyl-5'-methylphenyl)-5-chlorobenzotriazole-N-oxide | 0.1 mol, 33.2 g | OC1=C(C=C(C=C1C(C)(C)C)C)N1N=C2C(=[N+]1[O-])C=CC(=C2)Cl | C17H18ClN3O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | dimethylamine | 5 g | CNC | C2H7N
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 0.125 g | [C].[Pd]
solvent | water | O | H2O
solvent | butanol | C(CCC)O | C4H10O
product | 2-(2'-hydroxy-3'-t-butyl- 5'-methylphenyl)-5-chlorobenzotriazole | 27.2 g | OC1=C(C=C(C=C1C(C)(C)C)C)N1N=C2C(=N1)C=CC(=C2)Cl | C17H18ClN3O
